US08383654B2
Step 1: N-(3-tert-Butylsulfanylmethyl-4-cyanomethyl-phenyl)-2,2-dimethyl-propionamide
N-(4-Bromomethyl-3-tert-butylsulfanylmethyl-phenyl)-2,2-dimethyl-propionamide (1.8 g, 4.8 mmol) in DMSO (40 mL) was treated with potassium cyanide (0.325 g, 5.0 mmol), and the reaction was stirred for 1 hour at room temperature. The mixture was worked-up and purified by silica gel chromatography to give the title compound.

reactant | N-(4-Bromomethyl-3-tert-butylsulfanylmethyl-phenyl)-2,2-dimethyl-propionamide | 4.8 mmol, 1.8 g | BrCC1=C(C=C(C=C1)NC(C(C)(C)C)=O)CSC(C)(C)C | C17H26BrNOS
reactant | potassium cyanide | 5.0 mmol, 0.325 g | [C-]#N.[K+]
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | N-(3-tert-Butylsulfanylmethyl-4-cyanomethyl-phenyl)-2,2-dimethyl-propionamide | C(C)(C)(C)SCC=1C=C(C=CC1CC#N)NC(C(C)(C)C)=O | C18H26N2OS
